US04764618
The thus obtained N2 -(7-methoxy-2-naphthalene-sulfonyl)-L-arginyl chloride (2.4 g) is immediately added to a solution of 1.64 g (0.00608 mole) 1-(2-chlorophenyl)piperazine dihydrochloride and 2.56 g (0.0253 mole) triethylamine in 50 ml chloroform under ice chilling. After 10 minutes, the mixture is brought to room temperature, and allowed to stand overnight. Then the reaction mixture is washed with water and the solvent is distilled off. The residue is washed with ethyl ether and dissolved in a 30%-ethanol/50 ml water mixture, and made basic with a 2N sodium hydroxide aqueous solution to pH 10. Thus an oily substance is deposited and is crystallized on standing. The crystals are collected by filtration, dried, and recrystallized from 20 ml THF, and 0.83 g of 1-[N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginyl]-4-(2-chlorophenyl)piperazine is obtained. Yield 28%. m.p. 219°~221° C. (decomp.) IR(KBr): 3330, 1625, 1480 cm-1.

reactant | N2 (7-methoxy-2-naphthalene-sulfonyl)-L-arginyl chloride | 2.4 g | N#N.COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl
reactant | 1-(2-chlorophenyl)piperazine dihydrochloride | 0.00608 mole, 1.64 g | Cl.Cl.ClC1=C(C=CC=C1)N1CCNCC1
reactant | triethylamine | 0.0253 mole, 2.56 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginyl]-4-(2-chlorophenyl)piperazine | 0.83 g, Yield 28% | COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1CCN(CC1)C1=C(C=CC=C1)Cl | C27H33ClN6O4S
